US09226922B2
To the solution of (S)-1-(4-(chloromethyl)-3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (50 mg, 0.083 mmol) in THF (1.0 ml) was added sodium hydride (4.98 mg, 0.125 mmol). The resulting reaction mixture was allowed to stir at rt for 10 min before (S)-1-(4-(chloromethyl)-3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (50 mg, 0.083 mmol) was added into the above solution. The reaction solution was stirred for 2 h at rt. EtOAc and water was added into the mixture and the organic layer was collected and washed by water and brine. After drying over Na2SO4, the solution was concentrated to give 1-(4-((2-hydroxypropoxy)methyl)-3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-((S)-1-phenylethyl)urea (53.3 mg, 0.083 mmol, 100% yield) without purification. MS: [M+H]+ m/z 642.

reactant | (S)-1-(4-(chloromethyl)-3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.083 mmol, 50 mg | ClCC1=NC(=CC2=C1C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)OC)NC(=O)N[C@@H](C)C2=CC=CC=C2 | C36H32ClN5O2
reactant | sodium hydride | 0.125 mmol, 4.98 mg | [H-].[Na+]
reactant | (S)-1-(4-(chloromethyl)-3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.083 mmol, 50 mg | ClCC1=NC(=CC2=C1C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)OC)NC(=O)N[C@@H](C)C2=CC=CC=C2 | C36H32ClN5O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | water | O | H2O
reactant | THF | 1.0 ml | C1CCOC1 | C4H8O
product | 1-(4-((2-hydroxypropoxy)methyl)-3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-((S)-1-phenylethyl)urea | 0.083 mmol, 53.3 mg, 100% yield | OC(COCC1=NC(=CC2=C1C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)OC)NC(=O)N[C@@H](C)C2=CC=CC=C2)C | C39H39N5O4
